US05455238
STEP A: 3-chloro-4,5-dihydroxy benzaldehyde
37.2 g of commercial 5-chloro vanillin and 800 ml of dichloromethane were mixed together under nitrogen and cooled to 0° C. 300 ml of a molar solution of boron tribromide in dichloromethane were added and the mixture stood for one night at ambient temperature. It was concentrated, cooled again to 0° C. and acidified. The crystallized product was separated, washed with water, dried and crystallized from an isopropanol-water mixture (1-2 by volume) to obtain 26.6 g of the expected product melting at >260° C.

reactant | 5-chloro vanillin | 37.2 g | ClC=1C(=C(C=C(C=O)C1)OC)O | C8H7ClO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 3-chloro-4,5-dihydroxy benzaldehyde | 26.6 g | ClC=1C=C(C=O)C=C(C1O)O | C7H5ClO3
